US04701205
Trans-2-[1-(3-chloroallyloxyamino)-ethylidene]-5-(2-ethylthiopropyl)-cyclohexane-1,3-dione
In this example, 29.5 g (0.1151 mol) of 2-acetyl-5-(2-ethylthiopropyl)cyclohexane-1,3-dione; 1.7 g (0.0277 mol) of acetic acid, and 19.7 g (0.1369 mol) of 3-trans-chloroallyloxyamine in 62 ml of water were admixed to 37 ml of hexane. Aqueous 5 wt. % sodium hydroxide was slowly added dropwise over about 15 minutes until 5.5 g (0.1369 m+small excess) of sodium hydroxide had been added yielding a reaction mixture pH of about 6. The mixture was heated to and maintained at 40° C. for 21/2 hours and then cooled to room temperature. The organic (i.e., hexane) phase was separated and washed with 16 ml of aqueous 5 wt. % hydrochloric acid and then aqueous 6.25 wt. % sodium hydroxide added until pH12. The aqueous phase was separated and admixed with 35 ml of hexane at about 0° C. (ice bath) and the pH adjusted to 5 by the dropwise addition of aqueous 36 wt. % hydrochloric acid over an ice bath. A few mls of methylene chloride was then added. The organic phase was separated, dried over magnesium sulfate and then concentrated by evaporation affording 35.2 g of a crude product as an oil. The crude product was purified by column chromatography over silica gel eluting with hexane:methylene chloride mixtures affording 17.4 g of the purified title compound also as an oil. Elemental analysis carbon calculated 55.56%, found 54.43%; Hydrogen calculated 6.99%, found 6.53%; Nitrogen 4.05%, found 4.31%.

reactant | 2-acetyl-5-(2-ethylthiopropyl)cyclohexane-1,3-dione | 0.1151 mol, 29.5 g | C(C)(=O)C1C(CC(CC1=O)CC(C)SCC)=O | C13H20O3S
reactant | acetic acid | 0.0277 mol, 1.7 g | C(C)(=O)O | C2H4O2
reactant | 3-trans-chloroallyloxyamine | 0.1369 mol, 19.7 g | Cl/C=C/CON | C3H6ClNO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydroxide | 5.5 g | [OH-].[Na+]
solvent | water | 62 ml | O | H2O
solvent | hexane | 37 ml | CCCCCC | C6H14
product | Trans-2-[1-(3-chloroallyloxyamino)-ethylidene]-5-(2-ethylthiopropyl)-cyclohexane-1,3-dione | pH of about 6 | Cl/C=C/CONC(C)=C1C(CC(CC1=O)CC(C)SCC)=O | C16H24ClNO3S
